US09376454B2
Step 3. Synthesis of (R)-2-hydroxy-3-(isoindoline-5-carboxamido)-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from tert-butyl 3-((2R)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-2-(isoindoline-5-carboxamido)ethyl)-2-methoxybenzoate and BCl3 following the procedure described in Step 2 of Example 3. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 353 (MH)+.

reactant | tert-butyl 3-((2R)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-2-(isoindoline-5-carboxamido)ethyl)-2-methoxybenzoate | CC12C3C(C(CC2OB(O1)[C@H](CC=1C(=C(C(=O)OC(C)(C)C)C=CC1)OC)NC(=O)C=1C=C2CNCC2=CC1)C3)(C)C | C33H43BN2O6
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-2-hydroxy-3-(isoindoline-5-carboxamido)-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | OB1OC2=C(C[C@@H]1NC(=O)C=1C=C3CNCC3=CC1)C=CC=C2C(=O)O | C18H17BN2O5
